US07244730B2
(Step 3) 4-Bromo-2-(tert-butyl)-6-nitrophenyl methyl ether
Potassium carbonate (453 g) and methyl iodide (164 ml) were added to a solution of 4-bromo-2-(tert-butyl)-6-nitrophenol (600 g) in dimethylformamide (6000 ml) and the mixture was stirred at 50° C. for 4 hours. Ether (6000 ml) was added and the reaction mixture was washed 3 times with water. The organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to yield a crude product of the title compound (569 g) as a yellow oil.

reactant | Potassium carbonate | 453 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 164 ml | CI | CH3I
reactant | 4-bromo-2-(tert-butyl)-6-nitrophenol | 600 g | BrC1=CC(=C(C(=C1)[N+](=O)[O-])O)C(C)(C)C | C10H12BrNO3
reactant | Ether | 6000 ml | CCOCC | C4H10O
solvent | dimethylformamide | 6000 ml | CN(C=O)C | C3H7NO
product | 4-Bromo-2-(tert-butyl)-6-nitrophenyl methyl ether | 569 g | COC1=C(C=C(C=C1[N+](=O)[O-])Br)C(C)(C)C | C11H14BrNO3
